
// Comparator Characterization Testbench
// Transient offset
simulator lang=spectre
global 0

// include model card
include "dummy_model_card_path" section=dummy_corner_name

// define w/l
parameters w1 = {w1}  l1 = {l1}    w3 = {w3} l3 = {l3}  w4 = {w4}  l4 = {l4}	   w5 = {w5}  l5 = {l5} w6 = {w6}  l6 = {l6}  w7 = {w7}  l7 = {l7} w8 = {w8}  l8 = {l8}

// define vref
parameters vref=0.6

// Include the circuit
include    "/home/shunqidai/Sizing/SizingDemoLinuxSpectre_integer_stdcell/smic011/ckt_netlist/dynamicComparator.scs"

// the power supply 1.2 V and current bias
vdd    (dd  0)   vsource  dc=vdd     type=dc


// the input signal for dc and tran simulation
vin    (inn 0)      vsource  dc=vref    type=dc
vip    (inp 0)     vsource  type=pwl	   wave=[0 0.595 0.5u 0.595 1.5u 0.605]
vclk  (clk 0)      vsource type=pulse	val0=0 val1=vdd delay=0.5u rise=1n fall=1n width=25n period=50n

clp   (outp 0) 	capacitor  c=cload
cln   (outn 0) 	capacitor  c=cload

// the circuit
Xcomp (dd 0 inp inn clk outp outn)  dynamic_comp


// Sprctre Analyses and Output Options
// Output Options
simulatorOptions options 
+    reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 
+    tnom=27 scalem=1.0 scale=1.0e-6 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 
+    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" 
+    checklimitdest=psf 

// Analyses
old_data_output_filename tran start=0.0 stop=1.5e-6 annotate=status 
saveOptions options save=allpub subcktprobelvl=2

// minstep=1e-13 maxstep=1e-10

// end of file
